US08685969B2
9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2-(methylsulfonyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide
Using the procedure of Example 43 but substituting methanesulfonyl chloride in place of acetic anhydride, 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide (20 mg, 0.044 mmol) was converted into the desired product as a white solid (8.0 mg, 34% yield). LCMS (M+H)+ m/z 528.2, (M+Na)+550.2. 1H NMR (400 MHz, DMSO-d6) δ 8.40, 8.15 (1 H, 2s), 8.22 (1 H, ddd, J=13.9, 8.1, 1.3 Hz), 7.92 (1 H, t, J=7.8 Hz), 7.79 (1 H, dd, J=7.6, 4.5 Hz), 7.73 (1 H, t, J=8.3 Hz), 7.54-7.67 (2 H, m), 7.51 (1 H, t, J=7.7 Hz), 7.43 (1 H, dd, J=7.2, 5.6 Hz), 6.83-7.00 (1 H, m), 3.43-3.86 (3 H, m), 3.28-3.34 (3 H, m), 2.89-3.19 (3 H, m), 1.74 (3 H, 2s).

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 0.044 mmol, 20 mg | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)CCNC3 | C27H23N5O2
product | 9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2-(methylsulfonyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 8.0 mg, 34% yield | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)CCN(C3)S(=O)(=O)C | C28H25N5O4S
